US09079853B2
5-chloro-1-(3-morpholinopropyl)-2-oxoindolin-3-yl benzoate
This compound was prepared in a similar way to 2-oxo-1-propylindolin-3-yl benzoate from 5-chloro-1-(3-morpholinopropyl)indoline-2,3-dione. 1H-NMR δ 8.07 (dd, 2H), 7.63 (dd, 1H), 7.53 (dd, 2H), 7.42 (s, 1H), 7.33 (dd, 1H), 7.6.92 (d, 1H), 6.09 (s, 1H), 3.84 (m, 2H), 3.76 (m, 4H), 2.50 (m, 6H), 1.97 (m, 2H).

reactant | 2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CCC)=O | C18H17NO3
reactant | 5-chloro-1-(3-morpholinopropyl)indoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCCN1CCOCC1)=O)=O | C15H17ClN2O3
product | 5-chloro-1-(3-morpholinopropyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CCCN1CCOCC1)=O | C22H23ClN2O4
